US06103907
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(N-phenyl-N-ethylamino)propionate
Reaction and post-treatment were carried out according to Reference example 5(a) using 4.50 g of ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate and 5.6 ml of N-ethylaniline to obtain 6.30 g of a mixture of the desired compound and N-ethylaniline as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate | 4.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OS(=O)(=O)C | C19H22O6S
reactant | N-ethylaniline | 5.6 ml | C(C)NC1=CC=CC=C1 | C8H11N
product | Ethyl 3-(4-benzyloxyphenyl)-2-(N-phenyl-N-ethylamino)propionate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)N(CC)C1=CC=CC=C1 | C26H29NO3
